US07674825B2
6-(4-Carboxybenzyl)-8-(2-heptoxyphenyl)octanoic acid
31.6 mg (0.07 mmol) of 6-(4-carboxybenzyl)-8-(2-heptoxyphenyl)-7-octenoic acid from Ex. 25 and 20 mg of palladium/activated carbon (10%) are added to 5 ml of ethyl acetate and, at room temperature and under atmospheric pressure, hydrogenated with hydrogen. After two hours, the mixture is filtered through Celite and concentrated under reduced pressure.

reactant | 6-(4-carboxybenzyl)-8-(2-heptoxyphenyl)-7-octenoic acid | 0.07 mmol, 31.6 mg | C(=O)(O)C1=CC=C(CC(CCCCC(=O)O)C=CC2=C(C=CC=C2)OCCCCCCC)C=C1 | C29H38O5
reactant | hydrogen | [H][H] | H2
catalyst | palladium | 20 mg | [Pd] | Pd
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 6-(4-Carboxybenzyl)-8-(2-heptoxyphenyl)octanoic acid | C(=O)(O)C1=CC=C(CC(CCCCC(=O)O)CCC2=C(C=CC=C2)OCCCCCCC)C=C1 | C29H40O5
